US05166062
Preparation of the Stereoisomer Mixture of α,α-Dimethyl-2,6-pyridinedimethanol (Compounds (S,S)-, (R,S)-, and (R,R)-5)
A 250 mL three-necked round bottom flask fitted with magnetic stirrer and nitrogen inlet was charged with 5.0 g (30.6 mmol) of 2,6-diacetylpyridine and 60 mL of anhydrous isopropyl alcohol. To the stirred solution was added 1.16 g (3.06 mmol) of sodium borohydride in three equal portions. The initially colorless solution became yellow and warmed then slowly returned to pale yellow.

reactant | 2,6-diacetylpyridine | 30.6 mmol, 5.0 g | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | sodium borohydride | 3.06 mmol, 1.16 g | [BH4-].[Na+]
reactant | isopropyl alcohol | 60 mL | C(C)(C)O | C3H8O
product | α,α-Dimethyl-2,6-pyridinedimethanol | CC(O)(C1=NC(=CC=C1)CO)C | C9H13NO2
